US07074796B2
1a, 3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one
A mixture of 1-(2,3-dichlorophenyl)piperazine, hydrochloride (8.0 g) and potassium carbonate (15 g) in a mixture of butanone (50 mL) and dimethyl formamide (5 mL) was heated to 50° C. followed by the addition of 3-chloro-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one (6.0 g). The resulting mixture was boiled under reflux for 40 h and filtered hot. The remaining organic phase was left to crystallise, and a white crystalline material was collected by filtration and washed with acetone (8.5 g). Mp 157–158° C. 1H NMR (DMSO-d6): 2.60 (s, 4H); 2.60–2.80 (m, 4H); 3.00 (s, 4H); 3.15 (t, 2H); 4.10 (t, 2H); 6.95 (t, 1H); 7.10–7–15 (m, 2H); 7.20 (d, 1H); 7.25–7.35 (m, 2H); 8.10 (d, 1H). MS m/z: 404 (MH+), 243.

reactant | 1-(2,3-dichlorophenyl)piperazine, hydrochloride | 8.0 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one | 6.0 g | ClCCC(=O)N1CCC2=CC=CC=C12 | C11H12ClNO
solvent | butanone | 50 mL | CC(CC)=O | C4H8O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)propan-1-one | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCC(=O)N1CCC2=CC=CC=C12 | C21H23Cl2N3O
